US04544562
5.6 g (54.1 millimoles) of cyanoacetyl chloride were added dropwise to 6.0 g (29.8 millimoles) of 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one in 150 ml of absolute tetrahydrofuran at room temperature, while stirring. After the addition was complete, stirring was continued for a further 10 minutes at 50° C. The product was filtered off under suction at 10° C., washed first with tetrahydrofuran and then with water and recrystallized from dimethylformamide/water. 3.6 g (44%) of 2-[p-(cyanoacetylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one hemihydrate were obtained as pale beige crystals. Mp.: 284° C. (decomposition).

reactant | cyanoacetyl chloride | 54.1 millimoles, 5.6 g | C(#N)CC(=O)Cl | C3H2ClNO
reactant | 2-(p-aminophenyl)-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one | 29.8 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | C11H11N3O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[p-(cyanoacetylamino)-phenyl]-3,4-diaza-bicyclo[4.1.0]hept-2-en-5-one hemihydrate | 3.6 g, 44% | O.C(#N)CC(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O.C(#N)CC(=O)NC1=CC=C(C=C1)C=1C2CC2C(NN1)=O | InChI=1S/2C14H12N4O2.H2O/c2*15-6-5-12(19)16-9-3-1-8(2-4-9)13-10-7-11(10)14(20)18-17-13;/h2*1-4,10-11H,5,7H2,(H,16,19)(H,18,20);1H2
